* [Disclaimer] (C) Copyright Texas Instruments Incorporated 1999 All rights reserved
* Texas Instruments Incorporated hereby grants the user of this SPICE Macro-model a
* non-exclusive, nontransferable license to use this SPICE Macro-model under the following
* terms. Before using this SPICE Macro-model, the user should read this license. If the
* user does not accept these terms, the SPICE Macro-model should be returned to Texas
* Instruments within 30 days. The user is granted this license only to use the SPICE
* Macro-model and is not granted rights to sell, load, rent, lease or license the SPICE
* Macro-model in whole or in part, or in modified form to anyone other than user. User may
* modify the SPICE Macro-model to suit its specific applications but rights to derivative
* works and such modifications shall belong to Texas Instruments. This SPICE Macro-model is
* provided on an "AS IS" basis and Texas Instruments makes absolutely no warranty with
* respect to the information contained herein. TEXAS INSTRUMENTS DISCLAIMS AND CUSTOMER
* WAIVES ALL WARRANTIES, EXPRESS OR IMPLIED, INCLUDING WARRANTIES OF MERCHANTABILITY OR
* FITNESS FOR A PARTICULAR PURPOSE. The entire risk as to quality and performance is with
* the Customer. ACCORDINGLY, IN NO EVENT SHALL THE COMPANY BE LIABLE FOR ANY DAMAGES,
* WHETHER IN CONTRACT OR TORT,INCLUDING ANY LOST PROFITS OR OTHER INCIDENTAL, CONSEQUENTIAL,
* EXEMPLARY, OR PUNITIVE DAMAGES ARISING OUT OF THE USE OR APPLICATION OF THE SPICE
* Macro-model provided in this package. Further, Texas Instruments reserves the right to
* discontinue or make changes without notice to any product herein to improve reliability,
* function, or design. Texas Instruments does not convey any license under patent rights or
* any other intellectual property rights, including those of third parties.
*
* PSpice Model Editor - Version 9.2

*$
.subckt SN10502 inp inn out vcc vee
.MODEL D_break D
+ RS=1.0000E-1
+ CJO=1.0000E-13
+ IS=100e-15
.MODEL pnp_bc2 PNP
+ IS=10.000E-15
+ BF=112.33
+ VAF=100
+ IKF=10.025E-3
+ ISE=14.614E-15
+ NE=1.3804
+ VAR=100
+ IKR=10.000E-3
+ NK=.78839
+ RE=1
+ RB=30
+ RC=60
+ CJE=40.000E-15
+ VJE=.65
+ MJE=.23
+ CJC=50.000E-15
+ VJC=.95
+ MJC=.23
+ TF=44.136E-12
+ XTF=7.3687
+ VTF=15.631
+ ITF=.49092
+ TR=10.000E-9
+ KF=0.6e-16
+ AF=0.003
.MODEL npn_bc2 NPN
+ IS=10.000E-18
+ BF=227.40
+ VAF=100
+ IKF=10.010E-3
+ ISE=128.92E-18
+ NE=1.5434
+ VAR=100
+ IKR=10.000E-3
+ NK=.44803
+ RE=1
+ RB=30
+ RC=60
+ CJE=30.000E-15
+ VJE=.85
+ MJE=.13
+ CJC=40.000E-15
+ MJC=.53
+ TF=30.331E-12
+ XTF=145.11
+ VTF=71.634
+ ITF=3.3583
+ TR=10.000E-9
+ KF=0.6e-16
+ AF=0.003
* source SN10502
R_R21         N1 N2  400
G_G2         OUT EREF N04630 EREF 40m
C_C2         EREF N04630  3p
Q_Q2         N01711 N01210 N2 NPN_BC2 6
C_C3         EREF OUT  4p
Q_Q3         VEE N01132 N1 PNP_BC2 6
Q_Q7         VCC INP N01132 NPN_BC2 6
C_C1         EREF IP  695f
X_F3    VCC N01678 VCC IP SCHEMATIC1_F3
I_I1         VCC N01210 DC 1000u
Q_Q4         VEE N01306 N2 PNP_BC2 6
R_R20         EREF IP  790
Q_Q8         VCC INN N01306 NPN_BC2 6
C_C9         N01678 N01711  1500f
C_C7         N1 N2  5f
I_I2         N01306 VEE DC 1000u
X_U1         IP EREF N04630 EREF GMAXIN PARAMS:  GM=70m IL=60M
I_I3         VCC N01067 DC 1000u
X_F4    VCC N01711 VCC IP SCHEMATIC1_F4
I_I4         N01132 VEE DC 1000u
R_R5         N04630 N05247  26.0
E_E1         EREF VEE VCC VEE 0.5
C_C4         N05247 OUT  110p
R_R4         EREF OUT  24.5k
Q_Q5         VEE INP N01067 PNP_BC2 6
Q_Q1         N01678 N01067 N1 NPN_BC2 6
R_R3         EREF N04630  1k
Q_Q6         VEE INN N01210 PNP_BC2 6
D_D1         OUT N47000 D_BREAK 4
D_D2         N47030 OUT D_BREAK 4
V_V5         N47030 VEE 0.92
V_V4         N47000 VCC -0.92
.ends SN10502
*$


.subckt SCHEMATIC1_F3 1 2 3 4
F_F3         3 4 VF_F3 0.8
VF_F3         1 2 0V
.ends SCHEMATIC1_F3
*$

.subckt SCHEMATIC1_F4 1 2 3 4
F_F4         3 4 VF_F4 -0.8
VF_F4         1 2 0V
.ends SCHEMATIC1_F4
*$

.SUBCKT Gmaxin   1 2 3 4
+ PARAMS:
+ gm = 1 ;
+ IL = 10m;
Gout 3 4 value={limit(v(1,2)*gm,IL*exp(abs(v(1,2))/6.2),-IL*exp(abs(v(1,2))/6.2))}
.ENDS


*$
